US05723497
Preparation of 16-(2-hydroxyethylamino)-1-(2-tetrahydropyranyloxy)hexadecane (IId-4):
A reaction was conducted in the same manner as in Preparation Example 37 except that ethanolamine and methyl 16-(2-tetrahydropyranyloxy)hexadecanate were used in place of diethanolamine and cyclohexadecanolide, respectively, in Preparation Example 37, thereby obtaining the title compound (IId-4).

reactant | ethanolamine | C(O)CN | C2H7NO
reactant | methyl 16-(2-tetrahydropyranyloxy)hexadecanate | O1C(CCCC1)OCCCCCCCCCCCCCCCC(=O)OC | C22H42O4
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
reactant | cyclohexadecanolide | C1CCCCCCCC(=O)OCCCCCCC1 | C16H30O2
product | 16-(2-hydroxyethylamino)-1-(2-tetrahydropyranyloxy)hexadecane | OCCNCCCCCCCCCCCCCCCCOC1OCCCC1 | C23H47NO3
